US06352993B1
Step 2: 6-methoxymethyl-5-methyl-2-(2-methylphenylamino)-4-(1,2,3,4-tetrahydro isoquinolin-2-yl)pyrimidine hydrochloride
o-Toluidine(0.48 ml, 4.5 mmol) and triethylamine were added to a solution of 6-methoxymethyl-5-methyl-2-chloro-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine (0.9 g, 3 mmol) in dimethylformamide(5 ml) and stirred for 5 hours at 130° C. The reaction mixture was cooled to a room temperature, diluted with dichloromethane, and washed with aqueous sodium hydroxide and water. The organic layer was dried over anhydrous magnesium sulfate, concentrated, and the residual oil was purified by column chromatography. The purified compound was dissolved in ethyl ether. Ethyl ether saturated with hydrochloric acid was added to a mixture solution. The resulting solid was filtered and dried to give 400 mg of the titled compound.

reactant | o-Toluidine | 4.5 mmol, 0.48 ml | NC=1C(=CC=CC1)C | C7H9N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 6-methoxymethyl-5-methyl-2-chloro-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 3 mmol, 0.9 g | COCC1=C(C(=NC(=N1)Cl)N1CC2=CC=CC=C2CC1)C | C16H18ClN3O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-methoxymethyl-5-methyl-2-(2-methylphenylamino)-4-(1,2,3,4-tetrahydro isoquinolin-2-yl)pyrimidine hydrochloride | 400 mg, Yield: 32.5% | Cl.COCC1=C(C(=NC(=N1)NC1=C(C=CC=C1)C)N1CC2=CC=CC=C2CC1)C | InChI=1S/C23H26N4O.ClH/c1-16-8-4-7-11-20(16)24-23-25-21(15-28-3)17(2)22(26-23)27-13-12-18-9-5-6-10-19(18)14-27;/h4-11H,12-15H2,1-3H3,(H,24,25,26);1H
